US04325964
(1) 3,4-Dichlorobenzylthio-acetic acid
A mixture of 19.5 (0.1 mol) of 3,4-dichlorobenzyl chloride and 7.6 g (0.1 mol) of thiourea in 50 ml of water is heated under reflux for 30 minutes, with stirring, and then, at 60°-70° C., a solution of 16 g (0.4 mol) of NaOH in 25 ml of water is run in; the mixture is heated under reflux for 15 minutes and a solution of 15 g (0.15 mol) of chloroacetic acid, 7 g of sodium carbonate and 50 ml of water are run in at 60°-70° C., and the reaction mixture is maintained under reflux for 1 hour. The mixture is acidified, whilst cold, with concentrated HCl, and is extracted with ether, and the ether extract washed with water, dried and evaporated. The residue is taken up in petroleum ether and the product filtered off. 21 g (yield 83%) of the stated product are obtained. Melting point 63°-64° C.

reactant | 3,4-dichlorobenzyl chloride | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | thiourea | 0.1 mol, 7.6 g | NC(=S)N | CH4N2S
reactant | NaOH | 0.4 mol, 16 g | [OH-].[Na+]
reactant | chloroacetic acid | 0.15 mol, 15 g | ClCC(=O)O | C2H3ClO2
reactant | sodium carbonate | 7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 25 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3,4-Dichlorobenzylthio-acetic acid | 21 g, yield 83% | ClC=1C=C(CCC(=S)O)C=CC1Cl | C9H8Cl2OS
